US05047411
A solution of 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine in a mixture of methanol (300 ml) and tetrahydrofuran (300 ml) was hydrogenated over 10% palladium on carbon (5.0 g) under atmospheric pressure of hydrogen gas at ambient temperature. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. The residue was triturated with diethyl ether to give a precipitate which was collected by filtration and dried to give 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-7-methylimidazo[1,2-a]pyridine (20.67 g).

reactant | 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C=CC=1N=C2N(C=CC(=C2)C)C1 | C23H19N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 5.0 g | [Pd] | Pd
product | 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-7-methylimidazo[1,2-a]pyridine | 20.67 g | NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1)O | C16H17N3O
